US05344843
A stirred mixture of 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester (0.724 g) in dimethylformamide (10 mL) under argon was treated with 55% sodium hydride (0.175 g), stirred for 15 minutes and treated with the mesylate of 2-(2-hydroxyethoxy)anthracene (1.26 g). The mixture was heated under argon at 60° C. overnight. The cooled mixture was treated with glacial acetic acid (2 drops) and the volatiles were removed under vacuum. The residue was mixed with water and the solids were filtered off, dissolved in dichloromethane, dried (Na2SO4), filtered, and evaporated to give crude product. Crystallization from dichloro-methane-diethyl ether provided 0.75 g of 4-[[2-(2anthracenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester as a yellow solid, mp 188°-189° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid methyl ester | 0.724 g | COC(C(C1=CC=C(C=C1)O)=O)=O | C9H8O4
reactant | sodium hydride | 0.175 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 2-(2-hydroxyethoxy)anthracene | 1.26 g | OCCOC1=CC2=CC3=CC=CC=C3C=C2C=C1 | C16H14O2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 4-[[2-(2anthracenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.75 g | COC(C(C1=CC=C(C=C1)OCCOC1=CC2=CC3=CC=CC=C3C=C2C=C1)=O)=O | C25H20O5
